US09085578B2
A) 1-(2,6-difluoro-4-nitrophenyl)-4-methoxy-2-oxo-1,2-dihydropyridine-3-carbonitrile
A mixture of 4-methoxy-2-oxo-1,2-dihydropyridine-3-carbonitrile (2.00 g), 1,2,3-trifluoro-5-nitrobenzene (3.54 g), potassium carbonate (3.73 g) and N,N-dimethylformamide (20 mL) was stirred at room temperature for 2 hr. The reaction mixture was slowly poured into saturated sodium hydrogen carbonate solution, and the mixture was extracted with ethyl acetate. The extract was washed with saturated brine, and dried over anhydrous magnesium sulfate, and the solvent was evaporated under reduced pressure. To the residue was added a mixed solvent (10 mL) of isopropyl ether/ethyl acetate=4/1, and the mixture was stirred for 15 min. The precipitate was collected by filtration to give the title compound (3.75 g).

reactant | 4-methoxy-2-oxo-1,2-dihydropyridine-3-carbonitrile | 2.00 g | COC1=C(C(NC=C1)=O)C#N | C7H6N2O2
reactant | 1,2,3-trifluoro-5-nitrobenzene | 3.54 g | FC1=C(C(=CC(=C1)[N+](=O)[O-])F)F | C6H2F3NO2
reactant | potassium carbonate | 3.73 g | C([O-])([O-])=O.[K+].[K+]
reactant | sodium hydrogen carbonate | C(O)([O-])=O.[Na+]
solvent | N,N-dimethylformamide | 20 mL | CN(C=O)C | C3H7NO
product | 1-(2,6-difluoro-4-nitrophenyl)-4-methoxy-2-oxo-1,2-dihydropyridine-3-carbonitrile | 3.75 g | FC1=C(C(=CC(=C1)[N+](=O)[O-])F)N1C(C(=C(C=C1)OC)C#N)=O | C13H7F2N3O4
